US05455273
p) trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)-N-methanesulphonylcyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)cyclohexylamine and methanesulphonic acid chloride. Colourless oil.

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)cyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC1=CC=C(C=C1)F)CNC | C26H35FN2O2
reactant | methanesulphonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-fluorobenzyl)-N-methanesulphonylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C)CC1=CC=C(C=C1)F)CNC | C27H37FN2O4S
